US07423159B2
A mixture of methyl 1-(4-nitrobenzyl)-1H-1,2,4-triazole-5-carboxylate (1.3 g), 10% palladium carbon (130 mg) and ethanol (200 ml) was stirred under a hydrogen atmosphere at room temperature for 2 hrs. Palladium carbon was removed from the reaction mixture by filtration, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to give methyl 1-(4-aminobenzyl)-1H-1,2,4-triazole-5-carboxylate (0.88 g, 76%) as crystals from a fraction eluted with hexane-ethyl acetate (1:2, v/v). Recrystallization thereof from ethyl acetate-isopropyl ether gave colorless prism crystals. melting point: 101-103° C.

reactant | methyl 1-(4-nitrobenzyl)-1H-1,2,4-triazole-5-carboxylate | 1.3 g | [N+](=O)([O-])C1=CC=C(CN2N=CN=C2C(=O)OC)C=C1 | C11H10N4O4
catalyst | palladium carbon | 130 mg | [C].[Pd]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | methyl 1-(4-aminobenzyl)-1H-1,2,4-triazole-5-carboxylate | 0.88 g, 76% | NC1=CC=C(CN2N=CN=C2C(=O)OC)C=C1 | C11H12N4O2
